US08835420B2
(S)-2-Amino-4-methyl-6-((1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-1-(1-Methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (151 mg, 0.522 mmol), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (80 mg, 0.475 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.248 mL, 1.42 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 20-35% ACN in water. The fractions containing the desired compound were combined and concentrated in vacuo. The residue was taken up in DMF and further purified by preparative HPLC (acid mode) eluting with 1-25% ACN in water. The fractions containing the desired compound were combined, neutralized with NaHCO3, and extracted with EtOAc (200 mL). The organic layers were combined, dried over Na2SO4, and concentrated in vacuo to give the title compound (53 mg, 29%). 1H NMR (500 MHz, CD3OD) δ ppm 1.34-1.41 (m, 3 H), 2.31 (d, J=1.46 Hz, 3 H), 3.88 (d, J=1.46 Hz, 3H), 5.68-5.79 (m, 1 H), 6.67 (d, J=2.44 Hz, 1 H), 7.47 (dd, J=7.32, 4.88 Hz, 1 H), 7.58-7.61 (m, 1 H), 7.67 (d, J=7.81 Hz, 1 H), 7.86 (s, 1 H), 7.99 (t, J=7.81 Hz, 1 H), 8.68-8.73 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H20N8, 385; found 385.

reactant | (S)-1-(1-Methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 0.522 mmol, 151 mg | Cl.CN1C=CC2=NC(=C(C=C21)C2=NC=CC=C2)[C@H](C)N
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.475 mmol, 80 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.42 mmol, 0.248 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (S)-2-Amino-4-methyl-6-((1-(1-methyl-6-(pyridin-2-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 53 mg, 29% | NC1=NC(=C(C(=N1)C)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=NC=CC=C2 | C21H20N8
